US05068053
0.2 mol of 4-methoxy-4'-(1-hydroxy-4-pentylcyclohexyl)-tolan (prepared by reaction of a Grignard compound of 4-bromo-4'-methoxytolan with 4-pentylcyclohexanone) is heated in 400 ml of toluene and with 1 g of p-toluenesulfonic acid for 1 hour using a water separator. The reaction mixture is washed, dried and evaporated. Customary working up gives 1-(4-methoxyphenyl)-2-[4-(4-pentylcyclohexen-1-yl)-phenyl]-acetylene.

reactant | 4-methoxy-4'-(1-hydroxy-4-pentylcyclohexyl)-tolan | 0.2 mol | COC1=CC=C(C=C1)C#CC1=CC=C(C=C1)C1(CCC(CC1)CCCCC)O | C26H32O2
reactant | 4-bromo-4'-methoxytolan | BrC1=CC=C(C=C1)C#CC1=CC=C(C=C1)OC | C15H11BrO
reactant | 4-pentylcyclohexanone | C(CCCC)C1CCC(CC1)=O | C11H20O
reactant | p-toluenesulfonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 1-(4-methoxyphenyl)-2-[4-(4-pentylcyclohexen-1-yl)-phenyl]-acetylene | COC1=CC=C(C=C1)C#CC1=CC=C(C=C1)C1=CCC(CC1)CCCCC | C26H30O
